US07893056B2
2,4-Dichloro-5-fluoro-6-hydrazinopyrimidine (358 mg 1.817 mmol), (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid (746 mg, 1.508 mmol), and HOAt (247 mg, 1.817 mmol) were dissolved in 15 mL of DMF. NMM (0.798 mL, 7.27 mmol) was added, followed by EDC (348 mg, 1.817 mmol). After stirring overnight at room temperature, the reaction mixture was purified by RP-HPLC to provide {(2R)-2-(cyclopentylmethyl)-3-[2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)hydrazino]-3-oxopropyl}[(phenylmethyl)oxy]formamide (442 mg, 50%). LCMS: (M+H)+: 483.6.

reactant | 2,4-Dichloro-5-fluoro-6-hydrazinopyrimidine | 1.817 mmol, 358 mg | ClC1=NC(=C(C(=N1)Cl)F)NN | C4H3Cl2FN4
reactant | (2R)-3-cyclopentyl-2-({formyl[(phenylmethyl)oxy]amino}methyl)propanoic acid | 1.508 mmol, 746 mg | C1(CCCC1)C[C@@H](C(=O)O)CN(OCC1=CC=CC=C1)C=O | C17H23NO4
reactant | HOAt | 1.817 mmol, 247 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | NMM | 7.27 mmol, 0.798 mL | CN1CCOCC1 | C5H11NO
reactant | EDC | 1.817 mmol, 348 mg
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | {(2R)-2-(cyclopentylmethyl)-3-[2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)hydrazino]-3-oxopropyl}[(phenylmethyl)oxy]formamide | 442 mg, 50% | C1(CCCC1)C[C@H](CN(C=O)OCC1=CC=CC=C1)C(=O)NNC1=NC(=NC(=C1F)Cl)Cl | C21H24Cl2FN5O3
